US04118499
1-(2-Bromoethyl)-7,7-dimethylnorbornane
A stirred mixture of 1-(2-hydroxyethyl)-7,7-dimethyl-norbornane (42.0 g, 0.25 mole), 48% hydrobromic acid (63.0 ml) and concentrated sulphuric acid (14 ml) was heated under reflux for 4 hours, cooled, poured into water (500 ml) was extracted with ether. The combined extracts were washed with water, sodium bicarbonate solution and water. After drying (MgSO4) the solvent was evaporated in vacuo to yield the title product (50.9 g), m.p. 68°-71° [from light-petroleum (b.p. 40-60°)] (Found: C, 57.0: H, 8.1; Br, 34.2. C11H19Br requires C, 57.0; H, 8.3; Br, 34.5%).

reactant | 1-(2-hydroxyethyl)-7,7-dimethyl-norbornane | 0.25 mole, 42.0 g | OCCC12CCC(CC1)C2(C)C | C11H20O
reactant | hydrobromic acid | 63.0 ml | Br | BrH
reactant | sulphuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 ml | O | H2O
product | 1-(2-Bromoethyl)-7,7-dimethylnorbornane | 50.9 g | BrCCC12CCC(CC1)C2(C)C | C11H19Br
